US06825191B2
Step 2: Synthesis of ethyl [(2-amino-6-methoxybenzyl)-(4-chlorobenzoyl)amino]acetate
5.6 g (21.3 mmol) of ethyl (6-methoxy-2-nitrobenzyl)aminoacetate was dissolved in 50 ml of dichloromethane. 3.3 ml (25.2 mmol) of 4-chlorobenzoyl chloride and 4.4 ml (32 mmol) of triethylamine were added to the obtained solution under cooling with ice, and they were stirred under cooling with ice for 2 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the crude product was obtained. The crude product was dissolved in 50 ml of ethyl acetate. 520 mg of 10% palladium/carbon was added to the obtained solution and they were stirred in the presence of hydrogen at room temperature for 4 hours. The reaction mixture was filtered through Celite. The solvent was evaporated to obtain the crude product, which was then purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl (6-methoxy-2-nitrobenzyl)aminoacetate | 21.3 mmol, 5.6 g | COC1=CC=CC(=C1CNCC(=O)OCC)[N+](=O)[O-] | C12H16N2O5
reactant | 4-chlorobenzoyl chloride | 25.2 mmol, 3.3 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | 32 mmol, 4.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 520 mg | [Pd] | Pd
product | ethyl [(2-amino-6-methoxybenzyl)-(4-chlorobenzoyl)amino]acetate | NC1=C(CN(C(C2=CC=C(C=C2)Cl)=O)CC(=O)OCC)C(=CC=C1)OC | C19H21ClN2O4
